US07371743B2
(d) N-Boc-2-amino-2-(1-methyl-pyrazol-3-yl)-acetic acid
1.16 g (4.31 mmol) methyl N-Boc-2-amino-2-(1-methyl-pyrazol-3-yl)-acetate in 16 ml THF are combined with 10 ml of water and 10 ml of 1-molar lithium hydroxide solution are added. After stirring at ambient temperature for 2 h the mixture is evaporated down i. vac., the residue is combined with water, filtered and the filtrate is adjusted to pH 5 with potassium hydrogen sulphate solution. After total evaporation i. vac. the residue is treated with dichloromethane and a little ethanol, suction filtered and the filtrate is evaporated down completely i. vac.

reactant | methyl N-Boc-2-amino-2-(1-methyl-pyrazol-3-yl)-acetate | 4.31 mmol, 1.16 g | C(=O)(OC(C)(C)C)NC(C(=O)OC)C1=NN(C=C1)C | C12H19N3O4
reactant | water | 10 ml | O | H2O
reactant | lithium hydroxide | 1-molar, 10 ml | [OH-].[Li+]
solvent | THF | 16 ml | C1CCOC1 | C4H8O
product | N-Boc-2-amino-2-(1-methyl-pyrazol-3-yl)-acetic acid | C(=O)(OC(C)(C)C)NC(C(=O)O)C1=NN(C=C1)C | C11H17N3O4
